US06169186A
Maleimidoundecanoic acid chloride:
24.0 g (0.085 mole) maleimidoundecanoic acid were dissolved in 50 ml of dry CH2Cl2 in a 250 ml round bottomed flask fitted with a stirrer, reflux condenser and CaCl2 drying tube, and were treated with 31.0 g (0.24 mole) oxalyl and boiled under reflux for 15 hours at an oil bath temperature of 70 to 75° C. Subsequently, the CH2Cl2 was first distilled off under normal pressure, and the oxalyl chloride was distilled off at 0.01 mbar. On account of its susceptibility to hydrolysis, the dark-coloured residue was not purified further, but was immediately used for further syntheses. Yield: 2.5 g=100% theoretical. The maleimidoundecanoic acid chloride had a purity of 94% as determined by GC/MS.

reactant | maleimidoundecanoic acid | 0.085 mole, 24.0 g | C1(C=CC(N1C(C(=O)O)CCCCCCCCC)=O)=O | C15H23NO4
reactant | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | Maleimidoundecanoic acid chloride | C1(C=CC(N1C(C(=O)Cl)CCCCCCCCC)=O)=O | C15H22ClNO3
